US04113722
(A) 9-Fluoro-11β-hydroxy-21-methanesulfonyloxypregna-1,4,16-triene-3,20-dione
A solution of 16 grams of 9-fluoro-11β,21-dihydroxypregna-1,4,16-triene-3,20-dione in dry pyridine (200 ml) is reacted with methanesulfonyl chloride (5.0 ml) for 2 hours at 0° C. The mixture is poured into an excess of cold 2N-hydrochloric acid. The solid that separates from the resulting solution is isolated yielding 17.5g of the title compound, which is characterized by its nmr spectrum.

reactant | 9-fluoro-11β,21-dihydroxypregna-1,4,16-triene-3,20-dione | 16 grams | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CC=C(C(CO)=O)[C@]1(C[C@@H]2O)C)=O)C | C21H25FO4
reactant | methanesulfonyl chloride | 5.0 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 9-Fluoro-11β-hydroxy-21-methanesulfonyloxypregna-1,4,16-triene-3,20-dione | 17.5g | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CC=C(C(COS(=O)(=O)C)=O)[C@]1(C[C@@H]2O)C)=O)C | C22H27FO6S
